US06303816B1
1-(4-bromophenyl)-2,5-dimethylpyrrole
4-Bromoaniline (56.0 g., 0.33 Mol.), 2,5-hexanedione (37.6 g., 0.33 Mol), and acetic acid (5 ml) were placed into Toluene (500 ml) and heated under reflux for 8 hours employing a dean stark trap to remove the water from the reaction. The reaction was cooled to room temperature and concentrated under reduced vacuum. The resulting oil was taken into ethyl acetate, washed one time each with 2N hydrochloric acid, 2N NaOH, and H2O, dried over Na2SO4, and concentrated under reduced vacuum to yield a brown solid. Material was purified by silica gel flash chromatography eluting with hexane. Concentration of the appropriate fractions yielded 55.0 gm. of a light yellow solid. (68%) NMR was consistent with the proposed title structure.

reactant | 4-Bromoaniline | 0.33 Mol, 56.0 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 2,5-hexanedione | 0.33 Mol, 37.6 g | CC(CCC(C)=O)=O | C6H10O2
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | Toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-bromophenyl)-2,5-dimethylpyrrole | BrC1=CC=C(C=C1)N1C(=CC=C1C)C | C12H12BrN
